Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
egg
 
Attending: ___.
 
Chief Complaint:
"I've had no motivation to go to school"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old ___ recent transfer 
student to ___ with no medical history and a psychiatric 
history significant for depression and difficulties with social 
relationships who presented with the director of counseling at 
her school due to worsening depressive symptoms and daily
suicidal ideation. Psychiatry is consulted for a safety 
evaluation and to aid with management and disposition planning.

___ says that for the last several months she has been 
struggling with low mood, amotivation, hypersomnia, binge 
eating, social withdrawal, hopelessness, worthlessness, and 
worsening grades in school. For the last few weeks she has not 
been going to school and says that she missed a midterm that she 
had
yesterday because she overslept. She notes that she spends most 
of her day in bed and has a hard time getting out of bed and 
does not have any friends or supports in ___ or at her 
school. Additionally, she has not been returning calls from her 
parents in ___. She says that her struggle with depression has 
never been this bad.

Someone from her residence hall contacted her and became 
concerned so called ___ who then brought her to the ED. 
She says that she has been struggling with suicidal thoughts for 
hours on a daily basis, but does not have any specific plan or 
intent. She says "I just want to vanish" and "I want to escape 
reality". She has no history of suicide attempts or engagement 
with any self-injurious behavior. She said that she does not 
feel as though she would actually hurt herself.

In addition to not having any supports in ___, she also notes 
that she does not have any treatment providers in the community. 
She had difficulties with social relationships at ___ as well 
as her grades, and since moving to ___ she says she has not 
had any opportunities to make friends here either.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Diagnoses: Depression
-Hospitalizations: Denies
-SA/SI: Denies suicide attempts or self-injurious behaviors
including non-suicidal self-injurious behaviors
-Harm to others: Denies 
-Medication/ECT trials: Denies
-Treaters: Denies current treaters, went to ___ Counseling
___ the first time today. Went to a counseling center a
year ago in ___.
-Trauma: History of emotional trauma from bullying in childhood

PAST MEDICAL HISTORY: 
Denies
 
Social History:
___
Family History:
Denies any family history of psychiatric illness, suicide 
attempts, or substance abuse. 
 
Physical Exam:
VS: 
*Temp: 99.5
*HR: 70
*BP: 130/85
*RR: 16
*Pulse Ox: 99% RA

MENTAL STATUS EXAM:
*Arousal: Alert
*Appearance: Age appearing ___ woman, wearing a hospital 
gown, has some dry skin around her mouth, limited 
hygiene/grooming.
*Behavior: Cooperative, polite, somewhat engaged, poor eye 
contact
*Mood: "Depressed"
*Affect: Very dysphoric and mood congruent, no mood reactivity
*Speech: Slow, low volume, limited prosody
*Thought process/associations: Linear, logical, goal directed 
without evidence of circumstantiality or tangentiality.
*Thought content: No overt delusions or paranoia expressed.
Denies AH, VH, TB, TI, or IOR. Is not responding to internal 
stimuli during interview. Endorses ongoing suicidal ideation 
without any specific plan or intent. Denies homicidal ideation, 
intent, or plan. There is no poverty of thought.
*Insight/Judgment: Poor/Poor

COGNITIVE EXAM:  
*Alertness: Awake, alert
*Orientation: Oriented to person, place, time and situation.
*Attention: Attentive to interview, able to perform MOYB
*Memory: Registration ___, recall ___, long term memory grossly 
intact
*Fund of knowledge: Impaired, when asked presidential candidates 
for US presidency initially stated "Obama" then when asked again 
said she did not know
*Calculation: Intact [$2.25 = 9 quarters]
*Abstraction: Apples and oranges = fruit, grass is always 
greener
= stated she never heard this proverb
*Language: Native ___ speaker, no paraphasic errors

NEUROLOGICAL: 
-Pupils: Not examined
-Facial symmetry: Symmetric to observation
-Station and gait: Not examined 
-Tone and strength: Grossly intact at BUEs and BLEs
 
Pertinent Results:
___ 08:22AM URINE  UCG-NEGATIVE
___ 08:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:20PM   WBC-7.6 RBC-4.39 HGB-13.5 HCT-40.3 MCV-92 
MCH-30.8 MCHC-33.5 RDW-11.6 RDWSD-38.8
___ 01:45PM   TSH-0.87
 
Brief Hospital Course:
PLAN:
SAFETY:
- On admission to the unit the patient was placed on 15 minute 
checks, supervised sharps status and was unit restricted. She 
remained on this level of observation until discharge.
- On admission she signed a CV form.
- Patient was safe in the milieu and non-disruptive.

PSYCHIATRIC: 
# Depression:
- Started fluoxetine 10mg PO QD on admission (___) which was 
increased to 20mg PO QD on ___ after no side effects were noted 
on initial dose. She was maintained on Fluoxetine 20mg PO QD 
through discharge.
- Encouraged patient to participate in individual, group in 
milieu therapy.
- Patient arranged to follow-up with Intensive Outpatient 
Program on discharge for continued care while she returns to 
school.

Problem 3. MEDICAL: 
Chronic Issues:
# Dermatitis:
- Patient uses ___ topical skin cream as needed for itching. 
She declined creams on formulary during this admission and 
elected instead to use her home cream after discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. skin protectants, misc.    topical PRN dry/itchy skin 

 
Discharge Medications:
1. Fluoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder.

 
Discharge Condition:
Mental Status: Clear and coherent.
Mental Status: Confused - sometimes.
Mental Status: Confused - always.
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Discharge Instructions
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___